US04654176
A second recycling of the catalyst is performed under the conditions described above, but introducing methyl α-acetamidocinnamate (1.6 g) and ethyl acetate (10 cc). Pure N-acetylphenylalanine methyl ester (1.33 g) is thus obtained with a conversion of 100%, its rotatory power being:

reactant | methyl α-acetamidocinnamate | 1.6 g | C(C)(=O)NC(C(=O)OC)=CC1=CC=CC=C1 | C12H13NO3
solvent | ethyl acetate | 10 cc | C(C)(=O)OCC | C4H8O2
product | N-acetylphenylalanine methyl ester | 1.33 g | COC([C@@H](NC(C)=O)CC1=CC=CC=C1)=O | C12H15NO3
